US05677464
(2S)-2', 4'-Difluoro-2-hydroxypropiophenone (26.01 g: synthesized by the method disclosed in Japanese Laid Open Publication Hei 5-230038) was dissolved in 300 ml of dichloromethane, to which 19.90 g of diisopropylethylamine was added at -60° C. under nitrogen atmosphere. Then, to the mixture was added dropwise 25.90 ml of trifluoromethanesulfonic anhydride over the period of 20 minutes. After the reaction temperature was gradually raised to -30° C., the reaction solution was stirred for 30 minutes. The reaction mixture was purified by silica gel chromatography (silica gel: 400 g, eluent; dichloromethane:hexane=1:1) to give 39.21 g of (2S)-2', 4'-difluoro-2-trifluoromethanesulfonyloxypropiophenone as a pale yellow oil.

reactant | (2S)-2', 4'-Difluoro-2-hydroxypropiophenone | FC1=C(C=CC(=C1)F)C([C@H](C)O)=O | C9H8F2O2
reactant | diisopropylethylamine | 19.90 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 25.90 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (2S)-2', 4'-difluoro-2-trifluoromethanesulfonyloxypropiophenone | 39.21 g | FC1=C(C=CC(=C1)F)C([C@H](C)OS(=O)(=O)C(F)(F)F)=O | C10H7F5O4S
